US08802659B2
3-(4-tert-butyl-cyclohexyloxy)-1-iodo-naphthalene
A mixture of 4-iodo-naphthalen-2-ol (1.0 g, 3.7 mmol) (See, for example, Australian Journal of Chemistry (1963), 16 401-10. b. Journal of the Chemical Society (1943), 468-9, which is incorporated by reference in its entirety), methanesulfonic acid 4-tert-butyl-cyclohexyl ester (1.8 g, 7.4 mmol) and cesium carbonate (3.6 g, 11 mmol) in tert-butyl alcohol (10 mL) and 2-butanone (7 mL) was heated in a sealed vial at 100° C. for 4 hrs. The mixture was partitioned between water and dichloromethane. The organic phase was washed with brine, dried over MgSO4, filtered and concentrated. The residue was purified via a silica gel column eluted with EtOAc in hexanes from 0 to 30% to give light yellow precipitate (1.10 g, yield: 73%). ESI-MS: 409.10 (M+H)+.

reactant | 4-iodo-naphthalen-2-ol | 3.7 mmol, 1.0 g | IC1=CC(=CC2=CC=CC=C12)O | C10H7IO
reactant | methanesulfonic acid 4-tert-butyl-cyclohexyl ester | 7.4 mmol, 1.8 g | C(C)(C)(C)C1CCC(CC1)OS(=O)(=O)C | C11H22O3S
reactant | cesium carbonate | 11 mmol, 3.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | tert-butyl alcohol | 10 mL | C(C)(C)(C)O | C4H10O
solvent | 2-butanone | 7 mL | CC(CC)=O | C4H8O
product | 3-(4-tert-butyl-cyclohexyloxy)-1-iodo-naphthalene | 1.10 g, yield: 73% | C(C)(C)(C)C1CCC(CC1)OC=1C=C(C2=CC=CC=C2C1)I | C20H25IO
